### PR TITLE
Poly over mulr 2closed

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Partial resolution of issue #996. rpredM does not work on polynomials over algebras, since these do not have an unit. This PR proposes a quick fix, postponing (and preparing) the hierarchy modification.

##### Things done/to do

Added lemma polyOver_mulr_2closed.

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~[ ] added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/poly.v [hunk 1]
```diff
@@ -1386,6 +1386,13 @@ by apply/polyOverP=> i; rewrite coefD rpredD ?(polyOverP _).
 Qed.
 Canonical polyOver_addrPred := AddrPred polyOver_addr_closed.
 
+Lemma polyOver_mulr_2closed :
+  GRing.mulr_2closed kS -> GRing.mulr_2closed (polyOver kS).
+Proof.
+move=>mulS p q /polyOverP Sp /polyOverP Sq; apply/polyOverP=> i.
+by rewrite coefM rpred_sum // => j _; apply mulS.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1393]:
```suggestion
by rewrite coefM rpred_sum // => j _; apply: mulS.
```
to use the ssreflect `apply` rather than the legacy one

File: mathcomp/algebra/poly.v [hunk 2]
```diff
@@ -1386,6 +1386,13 @@ by apply/polyOverP=> i; rewrite coefD rpredD ?(polyOverP _).
 Qed.
 Canonical polyOver_addrPred := AddrPred polyOver_addr_closed.
 
+Lemma polyOver_mulr_2closed :
+  GRing.mulr_2closed kS -> GRing.mulr_2closed (polyOver kS).
+Proof.
+move=>mulS p q /polyOverP Sp /polyOverP Sq; apply/polyOverP=> i.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1392]:
```suggestion
move=> mulS p q /polyOverP Sp /polyOverP Sq; apply/polyOverP=> i.
```

File: mathcomp/algebra/poly.v [hunk 3]
```diff
@@ -1402,8 +1409,8 @@ Variables (S : {pred R}) (ringS : semiringPred S) (kS : keyed_pred ringS).
 
 Fact polyOver_mulr_closed : mulr_closed (polyOver kS).
 Proof.
-split=> [|p q /polyOverP Sp /polyOverP Sq]; first by rewrite polyOverC rpred1.
-by apply/polyOverP=> i; rewrite coefM rpred_sum // => j _; apply: rpredM.
+split=> [|p q]; first by rewrite polyOverC rpred1.
+apply polyOver_mulr_2closed=>//; apply rpredM.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1413]:
```suggestion
exact/polyOver_mulr_2closed/rpredM.
```

**Review by proux01 — APPROVED** [review]
Thanks, a few nitpicking comments but otherwise looks good to me.

**Comment by proux01** [comment]
@Tragicus this should now be usable in the `hierarchy-builder` branch with the `semiring2Closed` structure that doesn't require `1 \in S`: https://github.com/math-comp/math-comp/pull/733/commits/14cb016335c39d59eda7805df56db1912676d332
